US07041697B2
N-[(cis)-3-(5-fluoro-1H-indol-3-yl)cyclopentyl]-N-{[(2S)-8-methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}amine
A mixture of [(2R)-8-methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzene-sulfonate (0.5 g, 1.42 mmole) and cis-3-(5-fluoro-1H-indol-3-yl)-cyclopentyl-amine (0.24 g, 1.1 mmol) in anhydrous DMSO (10 mL) was heated at 80° C. for 30 h. The cooled reaction mixture was poured into 1 N aqueous NaOH (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL), then were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give 0.5 g of crude product. Flash chromatography on silica gel (10% MeOH/ethyl acetate) afforded 0.2 g (48%) of the title compound as a thick oil, which was converted to its hydrochloride salt (0.195 g): MS (ESI) m/z 397 [M+H]+.

reactant | [(2R)-8-methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzene-sulfonate | 1.42 mmole, 0.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=CC=C2)OC | C17H18O6S
reactant | cis-3-(5-fluoro-1H-indol-3-yl)-cyclopentyl-amine | 1.1 mmol, 0.24 g | FC=1C=C2C(=CNC2=CC1)[C@H]1C[C@H](CC1)N | C13H15FN2
reactant | NaOH | 1 N, 50 mL | [OH-].[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | N-[(cis)-3-(5-fluoro-1H-indol-3-yl)cyclopentyl]-N-{[(2S)-8-methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}amine | 0.2 g, 48% | FC=1C=C2C(=CNC2=CC1)[C@H]1C[C@H](CC1)NC[C@H]1COC2=C(O1)C(=CC=C2)OC | C23H25FN2O3
